US07504410B2
To a suspension of 3-nitrophenyl isocyanate (10 g, 61 mmol) and glycine methyl ester hydrochloride (8.4 g, 67 mmol, 1.1 equiv.) in dichloromethane (250 mL) was added triethylamine (10 mL, 72 mmol, 1.2 equiv.) at 0° C. The resulting solution was stirred at room temperature overnight. The resulting dark brown solution was concentrated and triturated in water to give a light yellow suspension. The suspension was filtered and the filter cake was washed with water and air-dried to give [[[(3-nitrophenyl)amino]carbonyl]aminoacetic acid methyl ester (15 g) in quantitative yield.

reactant | 3-nitrophenyl isocyanate | 61 mmol, 10 g | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
reactant | glycine methyl ester hydrochloride | 67 mmol, 8.4 g, 1.1 equiv. | Cl.COC(CN)=O
reactant | triethylamine | 72 mmol, 10 mL, 1.2 equiv. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | [[(3-nitrophenyl)amino]carbonyl]aminoacetic acid methyl ester | 15 g, quantitative yield | COC(CNC(=O)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C10H11N3O5
